data/mechanisms/records/IMS8-EQ8.99.json
{"mechanism_id": "IMS8-EQ8.99", "species": [{"species_id": "methionine_ester_molecular_ion", "mapped_smiles": "[NH2+:1][CH:2]([C:3](=[O:4])[O:5][CH3:6])[CH:7]([1H:11])[CH2:8][S:9][CH3:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methoxycarbonyl_radical", "mapped_smiles": "[C:3](=[O:4])[O:5][CH3:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methylthiopropyl_iminium_ion", "mapped_smiles": "[NH2+:1]=[CH:2][CH:7]([1H:11])[CH2:8][S:9][CH3:10]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "allyl_iminium_ion", "mapped_smiles": "[NH2+:1]=[CH:2][CH:7]=[CH2:8]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methanethiol", "mapped_smiles": "[1H:11][S:9][CH3:10]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methionine_ester_molecular_ion"]}, {"state_id": "state_iminium", "species_ids": ["methylthiopropyl_iminium_ion", "methoxycarbonyl_radical"]}, {"state_id": "state_products", "species_ids": ["allyl_iminium_ion", "methanethiol", "methoxycarbonyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_iminium", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_thiol_elimination", "from_state": "state_iminium", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 11]}, "target": {"type": "bond", "atom_maps": [9, 11]}, "electron_count": 1}, {"source": {"type": "lone_pair", "atom_maps": [9]}, "target": {"type": "bond", "atom_maps": [9, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 11]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "atom", "atom_maps": [9]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_8_99", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 208, "equation": "8.99", "figure": null, "panel": "first arrow, labelled '- ROC.'", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.85, "curator_note": "Equation 8.99, FIRST arrow (leftmost structure -> centre structure). The book draws the precursor as the amine-n-ionized molecular ion of a methionine ester, H2N(+.)-CH(COOR)CH2CH2SCH3, with '+.' printed on the nitrogen; the arrow is labelled with its neutral loss '- ROC.', i.e. the alkoxycarbonyl radical .C(=O)OR. This is textbook radical-site alpha-cleavage: the N-C(alpha) bond becomes the iminium double bond while the C(alpha)-COOR sigma bond cleaves homolytically. ARC COUNT (convention D): Book draws 2 arc(s), both single-barbed fishhooks, converging with their barbs pointing DOWN onto the N-C(alpha) bond, i.e. onto the forming N=C pi bond: arc 1 starts at the odd-electron dot of the '+.' on nitrogen, arc 2 starts on the vertical C(alpha)-COOR bond. Moves <1,2> are those two drawn arcs; move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - it routes the second electron of the cleaving C(alpha)-COOR bond onto the ester carbon, which is what actually makes the .COOR radical the arrow label announces. LOCALIZATION (convention B): the precursor SMILES carries the charge and the odd electron explicitly on nitrogen ([NH2+:1] with three bonds = one unpaired electron in RDKit), so arc 1 has a real origin. INSTANTIATION (convention F): the scheme is generic in R; this record uses R = CH3, i.e. methionine methyl ester (C6H13NO2S, M+. m/z 163.0662), so the expelled radical is .COOCH3 (59.0133) and the iminium is CH3SCH2CH2CH=NH2(+) (C4H10NS+, m/z 104.0528). ATOM-MAP NOTE: the hydrogen that migrates in the second step is tagged [1H:11] so RDKit keeps it explicit and it can carry an atom map; it is an ordinary protium, not a label the book draws."}, {"evidence_id": "ev_step_rH_8_99", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_thiol_elimination", "support_type": "textbook_proposed", "locator": {"page": 208, "equation": "8.99", "figure": null, "panel": "second arrow, labelled 'r H'", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Equation 8.99, SECOND arrow (labelled 'r H'): the even-electron (EE+) iminium ion H2N(+)=CH-CH2-CH2-SCH3 eliminates methanethiol to give the conjugated allyl iminium H2N(+)=CH-CH=CH2, exactly as the book prints the products under the arrow ('H2N(+)=CHCH=CH2 + HSCH3'). SET-UP SENTENCE (runs from page 207 onto this page): 'Finally, hydrogen rearrangement can occur in an EE+ ion to a site that has neither a charge nor a multiple bond (Equations 4.45, 8.99, and 8.100; see Site receptivity in this section and extensive examples by Zahorszky 1988, 1989).' Here that receptor site is the SULFUR: it is uncharged and singly bonded, and the charge stays on the remote iminium nitrogen throughout. CONNECTIVITY AS DRAWN: the centre structure is written 'H2N(+)=CH-CH-CH2' with one H drawn explicitly above the middle carbon and SCH3 drawn above the terminal carbon, i.e. the beta carbon (map 7) is the H donor and the gamma carbon (map 8) carries the sulfur; the beta H goes to S, the C(beta)=C(gamma) pi bond forms and the C(gamma)-S bond breaks, which is the only assignment that produces the printed allyl product. ARC COUNT (convention D): Book draws 4 arc(s), all single-barbed fishhooks, in a diamond of two converging pairs. Upper pair -> the forming H-S bond (a hook off the C(beta)-H bond sweeping up-right, and the long arc that starts at the two lone-pair dots drawn above S and sweeps left over the top); lower pair -> the forming C(beta)=C(gamma) pi bond (a hook off the same C(beta)-H bond and a hook off the C(gamma)-S bond, both with barbs pointing down onto the horizontal C-C bond). Moves <1,2,3,4> are those four drawn arcs; move <5> is an implicit homolysis hook required for electron balance (not drawn on the page) - it returns the second electron of the cleaving C(gamma)-S bond to sulfur as a lone pair, which is what leaves S with its neutral two-bond/two-lone-pair valence in HSCH3. NOTE that McLafferty's four-fishhook drawing is bookkeeping-equivalent to the two-double-barbed-arrow concerted 1,2-elimination (C-H pair -> C=C, C-S pair -> S-H); the record transcribes the hooks he actually drew. SPECTATOR: the .COOCH3 radical released in step 1 is carried unchanged through both states so that step 2 balances atom-for-atom; it takes no part in this step."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 163.0662, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_104", "species_id": "methylthiopropyl_iminium_ion", "step_id": "step_alpha_cleavage", "observed_mz": 104.0528, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}, {"peak_id": "peak_56", "species_id": "allyl_iminium_ion", "step_id": "step_rH_thiol_elimination", "observed_mz": 56.0495, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
